### ISSUE TITLE
rcases can't use `rfl` on `0 = a` in some circumstances.

### ISSUE THREAD

**Issue by semorrison** [leanprover/std4#62]
```
import Std.Tactic.RCases

variable {α : Type _} [LT α] (a : α)

theorem lt_trichotomy (a b : α) : a < b ∨ a = b ∨ b < a := sorry

example : True := by
  rcases lt_trichotomy 0 a with (ha | rfl | ha)
```
Fails with
`tactic 'subst' failed, 'a' occurs at 0`

This breaks a proof from `Algebra.Order.Ring.Defs`, https://github.com/leanprover-community/mathlib4/pull/905.

**Comment by semorrison** [comment]
I guess this is a repro:

```
theorem foo [OfNat α 0] (a : α) : a = 0 := sorry

example (a : α) [OfNat α 0] : True := by
  let t := @foo _ ?_ a
  subst t
  
example (a : α) [OfNat α 0] : True := by
  let t := foo a
  subst t  
```

**Comment by semorrison** [comment]
The problem here is that [`substCore`](https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/Subst.lean#L17) calls [`exprDependsOn`](https://github.com/leanprover/lean4/blob/master/src/Lean/MetavarContext.lean#L717), which is conservative, and looks for any metavariables which could possibly result in a dependency.

**Comment by semorrison** [comment]
Per mathlib porting meeting discussion, it seems `rcases` should be synthesizing instances here.
